US06693197B2
Preparation of (2S)-2-[4-(1H-Indol-3-yl)-3,6-Dihydro-2H-Pyridin-1-ylmethyl]-8-Methyl-2,3-Dihydro-1,4-Dioxino [2,3-f]Quinoline
A solution of [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl 4-bromobenzenesulfonate (2.0 g, 4.44 mmol), 3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole (1.01 g, 5.09 mmol) and diisopropylethyl amine (0.86 g, 6.65 mmol) in DMSO (10 mL) was heated to 80-83° C. After 10 h, the reaction mixture was cooled to 65-70° C. before CH3OH (3 mL) was added. The resulted suspension was cooled to room temperature, filtered, washed with CH3OH and dried in a vacuum oven to give 1.3 g (71%) of the title compound as a yellow solid.

reactant | [(2R)-8-methyl-2,3-dihydro[1,4]dioxino[2,3-f]quinolin-2-yl]methyl 4-bromobenzenesulfonate | 4.44 mmol, 2.0 g | BrC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C19H16BrNO5S
reactant | 3-(1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 5.09 mmol, 1.01 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
reactant | diisopropylethyl amine | 6.65 mmol, 0.86 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | CH3OH | 3 mL | CO | CH4O
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | (2S)-2-[4-(1H-Indol-3-yl)-3,6-Dihydro-2H-Pyridin-1-ylmethyl]-8-Methyl-2,3-Dihydro-1,4-Dioxino [2,3-f]Quinoline | 1.3 g, 71% | N1C=C(C2=CC=CC=C12)C=1CCN(CC1)C[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C26H25N3O2
